US05629419
To a suspension of sodium borohydride (1.78 g) in tetrahydrofuran (70 ml)is added dimethylsulfide (2.8 ml) at room temperature, and thereto is added dropwise a solution of boron trifluoride·ether complex (6.3 ml) in tetrahydrofuran (10 ml) at room temperature, and the mixture is stirred for 30 minutes. To the mixture is added (3R)-3-benzylthio-3-carboxypropionic acid methyl ester (10 g) at room temperature, and the mixture is stirred for 1.5 hour. After the reaction is completed, to the reaction solution are added successively 2N aqueous sodium hydroxide solution (16 ml), 30% aqueous hydrogen peroxide solution (11 ml), and then further added a saturated aqueous sodium chloride solution. The mixture is extracted with chloroform, and the extract is dried, concentrated under reduced pressure, and the residue is purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate=2:1) to give (3R)-3-benzylthio-4-hydroxybutyric acid methyl ester (7.75 g) as an oily product.

reactant | sodium borohydride | 1.78 g | [BH4-].[Na+]
reactant | dimethylsulfide | 2.8 ml | CSC | C2H6S
reactant | (3R)-3-benzylthio-3-carboxypropionic acid methyl ester | 10 g | COC(C[C@H](C(=O)O)SCC1=CC=CC=C1)=O | C12H14O4S
reactant | sodium hydroxide | 2N, 16 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 11 ml | OO | H2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (3R)-3-benzylthio-4-hydroxybutyric acid methyl ester | 7.75 g | COC(C[C@H](CO)SCC1=CC=CC=C1)=O | C12H16O3S
